US07595398B2
(S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid tertbutyl ester (Compound 5375)
A mixture of (S)-2-[4-(4-carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.51 g, 1.22 mmol), HATU (0.47 g, 1.24 mmol)), and DIEA (0.2 mL, mmol) in DMF (10.0 mL) was stirred at room temperature for 1 h. Cyclopropyl amine (0.2 mL, 1.53 mmol) was added and the reaction mixture was stirred at room temperature overnight. The resulting mixture was purified by reverse phase HPLC to furnish the desired product. 1HNMR (DMSO-d6) δ(ppm) 12.45-12.40 (m, 1H), 8.44-8.43 (d, 1H), 7.95-7.2 (m, 5H), 4.43-4.34 (m, 1H), 2.97-2.82 (m, 2H), 2.26-2.19 (m, 1H), 1.94-1.79 (m, 3H), 1.39-1.24 (m, 9H), 0.73-0.55 (m, 4H); MS: 457.2 (M+H+).

reactant | (S)-2-[4-(4-carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.22 mmol, 0.51 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(=O)O)=O | C20H23N3O5S
reactant | HATU | 1.24 mmol, 0.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Cyclopropyl amine | 1.53 mmol, 0.2 mL | C1(CC1)N | C3H7N
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid tertbutyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C23H28N4O4S
